US05061726
Using the method described in Example 4(ii), and starting from 2-mercaptomethyl-3-methylbutan-1-ol and hept-6-ynal, 2-(hex-5-ynyl)-5-isopropyl-1,3-oxathiane was obtained as a mixture of isomers. Column chromatography on silica, eluting with hexane/ether gradients, gave a mixture of trans-and cis-isomers (50:50) followed by an enriched mixture of the trans-compound (95:5).

reactant | 2-mercaptomethyl-3-methylbutan-1-ol | SCC(CO)C(C)C | C6H14OS
reactant | hept-6-ynal | C(CCCCC#C)=O | C7H10O
product | 2-(hex-5-ynyl)-5-isopropyl-1,3-oxathiane | C(CCCC#C)C1OCC(CS1)C(C)C | C13H22OS
